US09056873B2
Step E: 7-Iodo-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine
To a stirred mixture of sodium hydride (0.261 g, 6.53 mmol) and THF (10 mL) was slowly added a solution of 2-(2-(hydroxymethyl)-4-iodo-1H-pyrrol-1-yl)ethyl 4-methylbenzenesulfonate (2.75 g, 6.53 mmol) and THF (25 mL). The reaction mixture was stirred at room temperature for 30 hours, then diluted with water (20 mL) and extracted with EtOAc (2×60 mL). The organic phase was dried over sodium sulfate, evaporated, and purified using silica gel column (80 g) chromatography, eluting with a gradient of 0-100% hexane and EtOAc. The pure compound fractions were combined and evaporated to give the title compound as a tan solid, which turned green on standing (1.02 g, 63%). ESI-MS m/z [M+H]+ calc'd for C7H8INO, 250. found, 250.

reactant | sodium hydride | 6.53 mmol, 0.261 g | [H-].[Na+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | 2-(2-(hydroxymethyl)-4-iodo-1H-pyrrol-1-yl)ethyl 4-methylbenzenesulfonate | 6.53 mmol, 2.75 g | CC1=CC=C(C=C1)S(=O)(=O)OCCN1C(=CC(=C1)I)CO | C14H16INO4S
reactant | THF | 25 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 7-Iodo-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine | IC=1C=C2COCCN2C1 | C7H8INO
